Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],-7.811188995660001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],3.67239439123
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-3.1974268678099995
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],2.95455674017
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:11][H:12].[H:10],0.771033357316
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.77254484771
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-3.74834846272
[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.04928196029
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.407871598630001
[H:12].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.61434704255
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.05729149924
[H:1][C:2]#[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.82790937224
[H:1][C:2][O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.01010960675
[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4][O:10][H:11]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11],-6.32325828006
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.4267843224
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.00474642411
[O:1].[O:2][H:3]>>[O:1][O:2][H:3],-4.29292376416
[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.44627917246
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.0998647789100024
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.47806355625
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.829017832240001
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.20266776836
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.46043395106
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:2]#[C:3][C:4]([C:5]=[C:6]([H:7])[H:8])[O:9][H:10].[H:1],5.821209478099999
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.05052078678
[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.6713031267
[C:1][H:2]>>[C:1].[H:2],2.70036650809
[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6][H:7])=[C:8](/[H:9])[O:10][H:11]>>[C:4](#[C:6][H:7])[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:5],-1.33725206081
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.7022485907700002
